.subckt 74LS86 A B Y
R1 A 0 100Meg
R2 B 0 100Meg
B1 Y 0 V={((V(A)>2.5)+(V(B)>2.5)==1)*5}
R3 Y 0 100Meg
.ends

.subckt 74LS86_B A B Y
R1 A 0 100Meg
R2 B 0 100Meg
B1 Y 0 V={((V(A)>2.5)+(V(B)>2.5)==1)*5}
R3 Y 0 100Meg
.ends

.subckt 74LS08 A B Y
R1 A 0 100Meg
R2 B 0 100Meg
B1 Y 0 V={(V(A)>2.5)*(V(B)>2.5)*5}
R3 Y 0 100Meg
.ends

.subckt 74LS08_B A B Y
R1 A 0 100Meg
R2 B 0 100Meg
B1 Y 0 V={(V(A)>2.5)*(V(B)>2.5)*5}
R3 Y 0 100Meg
.ends

.subckt 74LS32 A B Y
R1 A 0 100Meg
R2 B 0 100Meg
B1 Y 0 V={((V(A)>2.5)+(V(B)>2.5)>0)*5}
R3 Y 0 100Meg
.ends